US04492707
2-(1-imidazolyl)-3,4-dihydro-6-hydroxy-1(2H)-naphthalenone hydrobromide (1.35 g) was dissolved in water. The solution, basified with NaHCO3, extracted with CH2Cl2, dried and evaporated, gave 1.15 g of 2-(1-imidazolyl)-3,4-dihydro-6-hydroxy-1(2N)-naphthalenone.

reactant | 2-(1-imidazolyl)-3,4-dihydro-6-hydroxy-1(2H)-naphthalenone hydrobromide | 1.35 g | Br.N1(C=NC=C1)C1C(C2=CC=C(C=C2CC1)O)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
product | naphthalenone | C1(CC=CC2=CC=CC=C12)=O | C10H8O
